US07544704B2
2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-4-trifluoromethyl-pyridine
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (92 mg, 0.50 mmol) was converted (using 2-bromo-4-(trifluoromethyl)pyridine instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 124 mg, 76%) which was obtained as an off-white solid. MS: m/e=329.3 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.50 mmol, 92 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 2-bromo-4-(trifluoromethyl)pyridine | BrC1=NC=CC(=C1)C(F)(F)F | C6H3BrF3N
product | 2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-4-trifluoromethyl-pyridine | 124 mg, 76% | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC1=NC=CC(=C1)C(F)(F)F | C18H11F3N2O
